US05484946
Preparation of Ethyl 3(R)-aminobutanoate (R)-mandelate.
A solution of ethyl 3-aminobutyrate hydrochloride (4.5 g, 26.8 mmol) in 27 mL of 1N NaOH was extracted 2X with EtOAc. The organic fraction was dried (Na2SO4) and concentrated under reduced pressure. Recrystallization of the residue 3X from EtOAc afforded 1.93 g (51%) of product as a single chiral diastereomer as determined by NMR spectroscopy (m.p. 125°-125° C.). 1H-NMR (300 MHz, CDCl3 ) δ1.00 (d, J=7 Hz, 3H), 1.27 (t, J=7 Hz, 3H, 2.23-2.45 (m, 2H), 3.13 (m, 1H), 4.13 (q, J=7 Hz, 2H), 4.85 (s, 1H), 7.17-7.33 (m, 3H), 7.41 (d, J=8 Hz, 2H). Anal. calc'd. for C14H21NO5 : C, 59.35; H, 7.47; N, 4.94.

reactant | ethyl 3-aminobutyrate hydrochloride | 26.8 mmol, 4.5 g | Cl.NC(CC(=O)OCC)C
reactant | NaOH | 1N, 27 mL | [OH-].[Na+]
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | Ethyl 3(R)-aminobutanoate (R)-mandelate | 1.93 g, 51% | C([C@H](O)C1=CC=CC=C1)(=O)O.N[C@@H](CC(=O)OCC)C | InChI=1S/C8H8O3.C6H13NO2/c9-7(8(10)11)6-4-2-1-3-5-6;1-3-9-6(8)4-5(2)7/h1-5,7,9H,(H,10,11);5H,3-4,7H2,1-2H3/t7-;5-/m11/s1
